US04113940
A mixture of 2-methyl-7-[N-(Cl-cyclopropylethoxy)carbonyl-2-(5,6-dihydro-2H-pyran-3-yl)glycyl]amino-3-cephem-4-carboxylic acid (3.0 g) and formic acid (20 ml) was stirred for 3 hours at room temperature. After the reaction was completed, formic acid was removed from the reaction mixture under reduced pressure at room temperature. The residue was pulverized with acetonitrile and the powder was collected by filtration. The powder was in turn washed with acetonitrile and water, and dried to give 2-methyl-7-[2-(5,6-dihydro-2H-pyran-3-yl)glycyl]amino-3-cephem-4-carboxylic acid (2.20 g), mp 125° to 128° C. (dec.).

reactant | 2-methyl-7-[N-(Cl-cyclopropylethoxy)carbonyl-2-(5,6-dihydro-2H-pyran-3-yl)glycyl]amino-3-cephem-4-carboxylic acid | 3.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(NC(=O)OC(C)C2CC2)C=2COCCC2)=O)=O | C21H27N3O7S
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 2-methyl-7-[2-(5,6-dihydro-2H-pyran-3-yl)glycyl]amino-3-cephem-4-carboxylic acid | 2.20 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(N)C=2COCCC2)=O)=O | C15H19N3O5S
